US07667071B2
98 g (1 mol) of cyclohexanone, 226 g (2 mol) of ethyl cyanoacetate, and 392 g of 96% methanol were mixed in a reaction flask, to which 272 g of aqueous ammonia (equivalent to 4 mol of ammonia gas) was added under stirring. Specifically, to carry out the addition of aqueous ammonia, the temperature was lowered to within the range of −5° C. to 0° C., ¾ of the prescribed amount of aqueous ammonia was added dropwise, the reaction mixture was then stirred for a first 12 hours with the temperature maintained at −5° C. to 0° C., and a second 12 hours with the temperature maintained at 5 to 10° C., and then the rest ¼ of aqueous ammonia was added. The reaction mixture was heated to and maintained at 20° C. to 25° C. for 24 hours under stirring. The mixture was then heated to 60° C., to which water was added in an amount equivalent to methanol, that is, 980 g water was added. The pH value was adjusted to 2-3 with dropwise addition of sulfuric acid, after which the temperature was lowered to below 5° C. and the mixture was centrifugally filtered. The filter cake was washed with water to pH 6-7, filtered, and dried to provide 1,5-dicyano-2,4-dioxo-3-azaspiro[5,5]-undecane. Yield: 85%, melting point: 202-210° C.

reactant | cyclohexanone | 1 mol, 98 g | C1(CCCCC1)=O | C6H10O
reactant | ethyl cyanoacetate | 2 mol, 226 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonia | 4 mol, 272 g | N | H3N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | water | 980 g | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 392 g | CO | CH4O
product | 1,5-dicyano-2,4-dioxo-3-azaspiro[5,5]-undecane | Yield: 85% | C(#N)C1C(NC(C(C12CCCCC2)C#N)=O)=O | C12H13N3O2
